US07601716B2
(2,5-Difluorophenyl)-{7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}-methanone
(2,5-Difluorophenyl)-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)methanone (35 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a light yellow solid (36% yield). M.p. 201-203° C., LCMS: m/z=478.10 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.32 (s, 3H), 2.33-2.52 (m, 4H), 3.40-3.85 (m, 8H), 5.31 (s, 1H), 6.70-7.05 (m, 3H), 7.15 (s, 1H), 7.24-7.45 (m, 4H), 8.09 (s, 1H).

reactant | (2,5-Difluorophenyl)-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)methanone | 35 mg | FC1=C(C=C(C=C1)F)C(=O)N1C2=C(NCC1)N=CC(=C2)I | C14H10F2IN3O
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | (2,5-Difluorophenyl)-{7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}-methanone | 36% yield | FC1=C(C=C(C=C1)F)C(=O)N1C2=C(NCC1)N=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | C26H25F2N5O2
